US07951824B2
6,2′-Dimethyl-[4,4′]bipyridinyl-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide
The title compound, was prepared from 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide in accordance with the general method of example 131, step 2 using 4-Bromo-2-methylpyridine instead of 3-Trifluoromethyl-5-bromopyridine to yield the final compound as a colorless amorphous, MS (ISP): m/e=319.2 (M+H)+.

reactant | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C19H24BN3O3
reactant | 4-Bromo-2-methylpyridine | BrC1=CC(=NC=C1)C | C6H6BrN
product | 6,2′-Dimethyl-[4,4′]bipyridinyl-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)C1=CC(=NC=C1)C)C | C19H18N4O
